US08012967B2
2-[(E)-2-(4-Methoxyphenyl)ethenyl]-6-quinolinecarboxylic acid
A mixture of 2-methyl-6-quinolinecarboxylic acid (200 mg, 0.936 mmol), 4-methoxybenzaldehyde (228 mg, 0.936 mmol), acetic anhydride (630 mg, 6.18 mmol) and a catalytic amount of zinc chloride was heated at 140° C. for 12 h with stirring. The cooled reaction mixture was extracted with water and ethyl acetate. The organic layer was collected, dried (MgSO4) and the solvent was removed under reduced pressure to give dark brown solid. This material was applied to a silica gel column and the product was eluted with ethyl acetate/n-hexane (1/4). Fractions containing the required product (RF=0.20 ethyl acetate/n-hexane 2/1, fluorescent under UV lamp) were collected and the solvents were removed under reduced pressure. The residue as a yellow solid was triturated with n-hexane and filtered to give the title compound (71 mg, 25%), m.p.=274-277° C. (sublimed around 240° C.).

reactant | 2-methyl-6-quinolinecarboxylic acid | 0.936 mmol, 200 mg | CC1=NC2=CC=C(C=C2C=C1)C(=O)O | C11H9NO2
reactant | 4-methoxybenzaldehyde | 0.936 mmol, 228 mg | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | acetic anhydride | 6.18 mmol, 630 mg | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 2-[(E)-2-(4-Methoxyphenyl)ethenyl]-6-quinolinecarboxylic acid | 71 mg, 25% | COC1=CC=C(C=C1)/C=C/C1=NC2=CC=C(C=C2C=C1)C(=O)O | C19H15NO3
